US07244730B2
(Step 6) 1-[3-(tert-Butyl)-4-hydroxy-5-nitrophenyl]-1-ethanone
1-[3-(tert-Butyl)-4-hydroxyphenyl]-1-ethanone (739 g) was added to a mixture of 69% nitric acid (354 g), water (1 l) and methylene chloride (2 l) at 10° C. to 15° C. while stirring. After then adding diethyl ether (3 l) and acetic anhydride (28 ml), 5 N hydrochloric acid was further added at 10° C. to 15° C. The temperature of the reaction mixture was raised to room temperature over a period of 1.5 hours, and the mixture was then poured into ice water. The mixture was extracted with diethyl ether, and the organic layer was washed with brine and then dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure to yield the title compound (894 g) as a yellow oil.

reactant | 1-[3-(tert-Butyl)-4-hydroxyphenyl]-1-ethanone | 739 g | C(C)(C)(C)C=1C=C(C=CC1O)C(C)=O | C12H16O2
reactant | nitric acid | 354 g | [N+](=O)(O)[O-] | HNO3
reactant | acetic anhydride | 28 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | hydrochloric acid | 5 N | Cl | ClH
solvent | diethyl ether | 3 l | C(C)OCC | C4H10O
solvent | methylene chloride | 2 l | C(Cl)Cl | CH2Cl2
solvent | water | 1 l | O | H2O
product | 1-[3-(tert-Butyl)-4-hydroxy-5-nitrophenyl]-1-ethanone | 894 g | C(C)(C)(C)C=1C=C(C=C(C1O)[N+](=O)[O-])C(C)=O | C12H15NO4
